US06686353B1
1-(3,3-Diphenylpropyl)homopiperazine (2.0 g, 6.79 mmol) was dissolved in CH3CN (60 mL) and treated with methyl bromoacetate (1.56 g, 10.18 mmol) and Et3N (1.42 mL, 10.18 mmol). The mixture was refluxed for 18 h and subsequently concentrated in vacuo. The residue was subjected to flash silica gel column chromatography (eluent: CH2Cl2/MeOH, 96/4, v/v) to give Methyl [4-(3,3-diphenylpropyl)homopiperazine-1-yl]acetate (1.93 g) in 78% yield, TLC Rf=0.53 (10% CH3OH—CH2Cl2); RPLC tR=4.71 min (>85%), 220 nm (Method A); ESI/MS m/e 367.1 (M++H, C23H30N2O2).

reactant | 1-(3,3-Diphenylpropyl)homopiperazine | 6.79 mmol, 2.0 g | C1(=CC=CC=C1)C(CCN1CCNCCC1)C1=CC=CC=C1 | C20H26N2
reactant | methyl bromoacetate | 10.18 mmol, 1.56 g | BrCC(=O)OC | C3H5BrO2
reactant | Et3N | 10.18 mmol, 1.42 mL | CCN(CC)CC | C6H15N
solvent | CH3CN | 60 mL | CC#N | C2H3N
product | Methyl [4-(3,3-diphenylpropyl)homopiperazine-1-yl]acetate | 1.93 g, 78% yield | C1(=CC=CC=C1)C(CCN1CCN(CCC1)CC(=O)OC)C1=CC=CC=C1 | C23H30N2O2
